US04410534
A solution of 269 mg. of 3-benzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylic acid in 10 ml. of dichloromethane is treated with an excess of ethereal diazomethane, and the reaction mixture is maintained at room temperature for 30 minutes. The solvents and excess reagent are eliminated under reduced pressure and the residue crystallized from ethyl acetate-methanol, to yield methyl 3-benzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate.

reactant | 3-benzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC=C2N1CCCC2C(=O)O | C16H15NO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 3-benzoyl-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate | C(C1=CC=CC=C1)(=O)C1=CC=C2N1CCCC2C(=O)OC | C17H17NO3
